US05206244
A. [1S-[1α(E),2β, 3α, 4β)]-3-[1,2,3,4-Tetra hydro-1-[2-hydroxy-4-(phenylmethoxy)-3-[(phenylmethoxy)methyl]cyclopentyl]-2,4-dioxo-5-pyrimidinyl]-2-propenoic acid, methyl ester
A mixture of palladium(II) acetate (0.195 g, 0.871 mmol), triphenylphosphine (0.456 g, 1.74 mmol) and triethylamine (2.56 ml, 0.0183 mol) in dioxane (200 ml, purified on basic alumina and degassed in vacuo) was heated for 10 minutes at 90° under nitrogen. A solution of [1S-(1α,2β,3α,4β)]-1-[2-hydroxy-4-(phenylmethoxy)-3-[(phenylmethoxy)-methyl]cyclopentyl-5-iodo-2,4(1H,3H)-pyrimidine-dione (6.70 g, 0.0122 mol, dried by concentration in vacuo from dry toluene) and methyl acrylate (3.23 ml, 0.0366 mol) in degassed dioxane (20 ml) was added, and the reaction was heated at 90° for 4.5 hours. Celite (5 g) was added, and after stirring at 90° for 15 minutes, the hot slurry was filtered through Celite and washed with chloroform (80 ml). The filtrate and the wash were combined and concentrated in vacuo to a residue, which was dissolved in chloroform (400 ml). The chloroform was washed with water (100 ml), dried (sodium sulfate) and concentrated in vacuo to a residue. Chromatography of the residue on a column of Merck silica gel (800 ml, packed in dichloromethane) by eluting with a gradient of chloroform to 5% ethanol in chloroform gave 2.21 g of desired product as a residue.

reactant | triphenylphosphine | 1.74 mmol, 0.456 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.0183 mol, 2.56 ml | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-4-(phenylmethoxy)-3-[(phenylmethoxy)-methyl]cyclopentyl-5-iodo-2,4(1H,3H)-pyrimidine-dione | 0.0122 mol, 6.70 g | OC1C(CC(C1COCC1=CC=CC=C1)OCC1=CC=CC=C1)N1C(NC(C(=C1)I)=O)=O | C24H25IN2O5
reactant | methyl acrylate | 0.0366 mol, 3.23 ml | C(C=C)(=O)OC | C4H6O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.871 mmol, 0.195 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[1,2,3,4-Tetra hydro-1-[2-hydroxy-4-(phenylmethoxy)-3-[(phenylmethoxy)methyl]cyclopentyl]-2,4-dioxo-5-pyrimidinyl]-2-propenoic acid, methyl ester | 2.21 g | OC1C(CC(C1COCC1=CC=CC=C1)OCC1=CC=CC=C1)N1C(NC(C(=C1)C=CC(=O)OC)=O)=O | C28H30N2O7
